US07459106B2
Preparation of 3-bromothioanisole (1).
3-bromobenzenethiol (5 g, 26.44 mmol) was added to a solution of sodium methoxide (1.43 g, 26.48 mmol) in 20 ml of anhydrous methanol. The mixture was stirred for 30 min under nitrogen at room temperature and a solution of methyl iodide (4.51 g, 31.77 mmol) in 20 ml anhydrous methanol was then added. The reaction mixture was stirred overnight at room temperature, poured into 2 M aqueous NaOH solution (30 ml) and extracted three times with ether (60 ml×3). The combined organic layer was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After removal of solvent, the product was purified by distillation at 80° C. (0.3 mmHg) and isolated in 86.1% (4.62 g) yield. 1H NMR(CDCl3, 500 MHz) δ ppm: 2.44 (s, 3H, CH3), 7.1-7.4(m, 4H, Ar—H)GC-MS(relative intensity %): 202, 204(1:1, 100, M+), 187, 189(1:1, 11, 3-BrPhS+).

reactant | 3-bromobenzenethiol | 26.44 mmol, 5 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | sodium methoxide | 26.48 mmol, 1.43 g | C[O-].[Na+]
reactant | methyl iodide | 31.77 mmol, 4.51 g | CI | CH3I
reactant | NaOH | 2 M, 30 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-bromothioanisole | BrC=1C=C(C=CC1)SC | C7H7BrS
